US05646308
To a mixture of 3.08 g of 3,4-dihydro-6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-one and 40 ml of dried benzene was added 1.8 ml of trimethylsilyl cyanide with stirring under ice-cooling. 1.22 g of zinc iodide was added therein and the resultant mixture was stirred at room temperature for 19 hours. 6 ml of pyridine and 3.1 ml of phosphorus oxychloride were added therein and the mixture was refluxed with heating for 5.5 hours. Ice water was added to the residue, and the residue was acidified to be hydrochloric acid and extracted with methylene chloride. An organic layer was washed with water and dried, and the solvent was distilled. The resultant residue was purified according to silica gel column chromatography (developing solution: CH2Cl2) to obtain 0.28 g of 6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carbonitrile with a melting point of 175°-176° C.

reactant | 3,4-dihydro-6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-one | 3.08 g | [N+](=O)([O-])C=1C=CC2=C(C(CC3(CCSCC3)O2)=O)C1 | C13H13NO4S
reactant | trimethylsilyl cyanide | 1.8 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | phosphorus oxychloride | 3.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc iodide | 1.22 g | [I-].[Zn+2].[I-]
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carbonitrile | 0.28 g | [N+](=O)([O-])C=1C=CC2=C(C(=CC3(CCSCC3)O2)C#N)C1 | C14H12N2O3S
